US06861432B2
1d) 4-[2,5-Dihydro-3-(5-iodopentyl)-4-methyl-2,5-dioxo-1H-pyrrol-1-yl]-2-(trifluoromethyl)benzonitrile
A mixture of 11.68 g of 4-[3-(5-chloropentyl)-2,5-dihydro-4-methyl-2,5-dioxo-1H-pyrrol-1-yl]-2-(trifluoromethyl)benzonitrile and 18.2 g of sodium iodide in 180 ml of ethylmethylketone was stirred under a nitrogen atmosphere for 19 hours at 80° C. After cooling, it was diluted with ethyl acetate and washed with water as well as saturated sodium chloride solution. After drying on sodium sulfate and concentration by evaporation, 11.26 g of the title compound was obtained as a white solid.

reactant | 4-[3-(5-chloropentyl)-2,5-dihydro-4-methyl-2,5-dioxo-1H-pyrrol-1-yl]-2-(trifluoromethyl)benzonitrile | 11.68 g | ClCCCCCC=1C(N(C(C1C)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F)=O | C18H16ClF3N2O2
reactant | sodium iodide | 18.2 g | [I-].[Na+]
solvent | ethylmethylketone | 180 ml | C(C)C(=O)C | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[2,5-Dihydro-3-(5-iodopentyl)-4-methyl-2,5-dioxo-1H-pyrrol-1-yl]-2-(trifluoromethyl)benzonitrile | 11.26 g | ICCCCCC=1C(N(C(C1C)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F)=O | C18H16F3IN2O2
